US08293768B2
Synthesis of 4-methyl-2-(1-((2-methylthiazol-4-yl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 19, making variation as required to replace 4-(trifluoromethyl)benzyl bromide with 4-(chloromethyl)-2-methylthiazole hydrochloride to react with 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide, the title compound was obtained as a white solid in 34% yield: 1H NMR (300 MHz, CDCl3) δ 8.57 (br s, 1H), 8.46 (br s, 1H), 8.26 (s, 1H), 7.72-7.63 (m, 1H), 7.30-7.17 (m, 1H), 7.05 (s, 1H), 6.83 (t, J=5.8 Hz, 1H), 5.06 (s, 2H), 4.58 (d, J=5.8 Hz, 2H), 2.64 (s, 3H), 2.61 (s, 3H); MS (ES+) m/z 428.1 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 4-(chloromethyl)-2-methylthiazole hydrochloride | Cl.ClCC=1N=C(SC1)C
reactant | 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C=NNC1=O | C13H12N6O2S
product | 4-methyl-2-(1-((2-methylthiazol-4-yl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 34% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C=NN(C1=O)CC=1N=C(SC1)C | C18H17N7O2S2
